US08685977B2
4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluoro-N-(methylsulfonyl)benzamide
A solution of 4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoic acid (Preparation 44, 400 mg, 1.19 mmol), DMAP (365 mg, 2.97 mmol, 2.5 eq), diisopropylethylamine (0.7 mL, 2.97 mmol) and EDCl (700 mg, 2.97 mmol) in dichloromethane (10 mL) was allowed to stir for 10 minutes at room temperature under nitrogen. Methane sulphonamide (400 mg, 3.57 mmol) was added in one portion and the reaction mixture left to stir for 16 hours. The reaction was quenched with 6N HCl (20 mL) and the organic layer removed. The DCM layer was extracted into 1N NaOH (30 mL) and the organic layer discarded. The aqueous phase was adjusted to pH 5 using acetic acid and extracted into ethyl acetate (2×30 mL). The organic layer was dried (MgSO4), filtered and evaporated to give the title compound as a white solid (168 mg, 34%).

reactant | 4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoic acid | 1.19 mmol, 400 mg | ClC1=C(C=C(OC2=CC(=C(C(=O)O)C=C2)F)C=C1)C(F)(F)F | C14H7ClF4O3
reactant | diisopropylethylamine | 2.97 mmol, 0.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDCl | 2.97 mmol, 700 mg | CCN=C=NCCCN(C)C.Cl
reactant | Methane sulphonamide | 3.57 mmol, 400 mg | CS(=O)(=O)N | CH5NO2S
catalyst | DMAP | 2.97 mmol, 365 mg, 2.5 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluoro-N-(methylsulfonyl)benzamide | 168 mg, 34% | ClC1=C(C=C(OC2=CC(=C(C(=O)NS(=O)(=O)C)C=C2)F)C=C1)C(F)(F)F | C15H10ClF4NO4S
